US09120797B2
4-Dimethylamino-4-phenylcyclohexanone (325 mg, 1.5 mmoles) and 2-(5-methyl-1H-indol-3-yl)-ethanol (“5-methyltryptophol”, 262 mg, 1.5 mmoles) were initially introduced into abs. MC (10 ml) under argon. Trifluoromethanesulfonic acid trimethylsilyl ester (0.3 ml, 1.55 mmoles) was then added very rapidly. The mixture was stirred at room temperature for 24 hours. For working up, 1 M NaOH (20 ml) was added to the reaction mixture and the mixture was stirred for 30 min. The organic phase was separated, and the aqueous phase which remained was extracted with MC (3×20 ml). The combined organic phases were washed with water (2×30 ml) and dried over sodium sulfate. Methanol (30 ml) was added to the solid residue obtained after the solvent had been distilled off, and the mixture was heated, and stirred for 15 hours. The suspended solid was filtered out with suction. One of the two possible diastereoisomers of 1,143-dimethylamino-3-phenylpentamethylene)-6-methyl-1,3,4,9-tetrahydropyrano[3,4-b]indole was obtained (430 mg, m.p. 259-270° C.). 350 mg of this were dissolved in hot ethanol (300 ml), and a similarly hot solution of citric acid (300 mg, 1.56 mmoles) in ethanol (10 ml) was added. After approx. 15 minutes, crystals precipitated out at the boiling point. After cooling to approx. 5° C., the mixture was left to stand for 2 hours. The resulting solid was filtered out with suction. It was possible to obtain the hemicitrate of 1,1-(3-dimethylamino-3-phenylpentamethylene)-6-methyl-1,3,4,9-tetrahydropyrano[3,4-b]indole in this way in a yield of 380 mg (white solid, m.p. 243-265° C.).

reactant | 4-Dimethylamino-4-phenylcyclohexanone | 1.5 mmoles, 325 mg | CN(C1(CCC(CC1)=O)C1=CC=CC=C1)C | C14H19NO
reactant | 2-(5-methyl-1H-indol-3-yl)-ethanol | 1.5 mmoles, 262 mg | CC=1C=C2C(=CNC2=CC1)CCO | C11H13NO
reactant | Trifluoromethanesulfonic acid trimethylsilyl ester | 1.55 mmoles, 0.3 ml | C[Si](C)(C)OS(=O)(=O)C(F)(F)F | C4H9F3O3SSi
solvent | NaOH | 1 M, 20 ml | [OH-].[Na+]
product | 6-methyl-1,3,4,9-tetrahydropyrano[3,4-b]indole | CC=1C=C2C3=C(NC2=CC1)COCC3 | C12H13NO
